US08735414B2
To a solution of (S)-tert-butyl 2-(5-(N-allyl-N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-6-cyclopropyl-1H-indole-1-carboxylate (500 mg, 0.91 mmol) in acetonitrile was added pyrrolidine (0.35 mL, 4.55 mmol). The mixture was stirred at room temperature for 5 hrs and the solvent was evaporated. The residue was purified on silica gel eluting with 0 to 10% ethyl acetate in CH2Cl2 to provide (S)-N-allyl-6-(6-cyclopropyl-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide (370 mg, 91% yield). MS m/z 450.2 M+H+; 1H NMR (500 MHz, CDCl3): δ 9.28 (1H, s), 8.85 (1H, s), 7.96 (1H, d, J=5.5 Hz), 7.74 (1H, d, J=9.5 Hz), 7.49 (1H, d, J=5.5 Hz), 7.09 (1H, s), 7.01 (1H, s), 6.82-6.80 (1H, m), 5.75 (1H, m), 5.16-5.10 (2H, m), 4.64-4.62 (1H, m), 3.89 (2H, d, J=5.0 Hz), 2.00-1.96 (1H, m), 1.35 (3H, d, J=6.0 Hz), 0.98-0.96 (2H, m), 0.75-0.72 (2H, m).

reactant | (S)-tert-butyl 2-(5-(N-allyl-N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-6-cyclopropyl-1H-indole-1-carboxylate | 0.91 mmol, 500 mg | C(C=C)N(S(=O)(=O)C=1C=CC(=NC1)C=1N(C2=CC(=CC=C2C1)C1CC1)C(=O)OC(C)(C)C)[C@H](C(F)(F)F)C | C27H30F3N3O4S
reactant | pyrrolidine | 4.55 mmol, 0.35 mL | N1CCCC1 | C4H9N
solvent | acetonitrile | C(C)#N | C2H3N
product | (S)-N-allyl-6-(6-cyclopropyl-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide | 370 mg, 91% yield | C(C=C)N(S(=O)(=O)C=1C=NC(=CC1)C=1NC2=CC(=CC=C2C1)C1CC1)[C@H](C(F)(F)F)C | C22H22F3N3O2S
